US05780500
Methylpropargylamine (4.5 g, 65 mmol) is dissolved in benzene (75 ml) and methanol (25 ml). At 40° C. a solution of 10-bromomethyldibenz[b,f]oxepine (7.0 g, 25 mmol) in benzene (25 ml) is added dropwise in the course of half an hour. When the addition is complete, the mixture is stirred for a further half hour at 40°-50° C., poured into water, washed three times with water and then extracted with 5% methanesulfonic acid. The acidic aqueous phase is rendered basic with concentrated ammonia and extracted with diethyl ether. The ethereal phase is dried over sodium sulfate and concentrated by evaporation. Crystallisation of the residue from petroleum ether yields N-(dibenz[b,f]oxepin-10-ylmethyl-N-methyl-N-prop-2-ynylamine alias 10-(N-propargyl-N-methyl-amino)methyldibenz[b,f]oxepine (5.3 g, 77%). Melting point: 66°-67° C.

reactant | Methylpropargylamine | 65 mmol, 4.5 g | CNCC#C | C4H7N
reactant | 10-bromomethyldibenz[b,f]oxepine | 25 mmol, 7.0 g | BrCC1=CC2=C(OC3=C1C=CC=C3)C=CC=C2 | C15H11BrO
reactant | water | O | H2O
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 25 ml | CO | CH4O
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | dibenz[b,f]oxepin-10-ylmethyl-N-methyl-N-prop-2-ynylamine | 5.3 g, 77% | C1=CC=CC=2OC3=C(C(=CC21)CN(CC#C)C)C=CC=C3 | C19H17NO
